US06699864B2
1-Chloro-2-nitrobenzene (15.0 g), 3-(dimethylamino)phenol (13.0 g) and potassium hydroxide (11.8 g) was dissolved in N,N-dimethylformamide (350 mL) and boiled under reflux for 18 hrs. The reaction was then cooled, and poured into water, and worked up by standard procedure using ethyl acetate. The crude product was purified by silicagel chromatography (heptane:ethyl acetate:triethylamine/80:10:10). The pure intermediate was dissolved in a mixture of ethanol (200 mL) and acetic acid (20 mL). After addition of Pd/C (5%, 4.5 g), the reaction mixture was shaken under hydrogen atmosphere (3 bar) for 3 hrs. The reaction mixture was filtered and after neutralisation worked up by standard procedure using ethyl acetate affording pure aniline (11.2 g). The crude aniline, bis-(2-chloroethyl)amine hydrochloride (8.6 g) and chlorobenzene (200 mL) was boiled under reflux for 48 hrs. The reaction mixture was cooled to room temperature, and the volatile solvents evaporated in vacuo to give the crude 1-{[3-(dimethylamino)phenoxy]phenyl}piperazine (18.6 g). A solution of the crude piperazine, di-tert-butyl dicarbonate (32 g) and potassium carbonate (68 g) in tetrahydrofuran:water/1:1, was heated at 50° C. for 18 hrs. The organic layer was separated and the water phase extracted with ethyl acetate. The collected organic phases were worked up by standard procedure followed by purification by silicagel chromatography (heptane:ethyl acetate/8:2) affording pure BOC-protected 1-{[3-dimethyl)phenoxy]phenyl}piperazine (9.4 g). A solution of the BOC-derivative in a mixture of dry THF (30 mL) and trifluoroacetic acid (30 mL) was stirred at room temperature for 1 h. The volatile solvents were evaporated in vacuo and ethyl acetate and 1 N aqueous sodium hydroxide were added. The organic phase was collected and worked up by standard procedure giving pure 1-{[3-(dimethylamino)phenoxy]phenyl}piperazine (6.0 g). A mixture of a part of the pure piperazine (1.37 g), 3-(2-bromoethyl)-1H-indole (1.0 g), potassium carbonate (2.2 g), potassium iodide (cat.) and methyl isobutyl ketone was boiled under reflux for 24 hrs. The mixture was cooled to room temperature, filtered, and the volatile solvents evaporated in vacuo to give an oil which was purified by silicagel chromatography (heptane:ethyl acetate:triethylamine/26:70:4) to give the title compound as an oil. The title compound was crystallised as its oxalate from acetone (1.27 g). Mp 210-203° C.

reactant | 1-Chloro-2-nitrobenzene | 15.0 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | 3-(dimethylamino)phenol | 13.0 g | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | potassium hydroxide | 11.8 g | [OH-].[K+]
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | di-tert-butyl dicarbonate | 32 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 68 g | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylformamide | 350 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{[3-(dimethylamino)phenoxy]phenyl}piperazine | 6.0 g | CN(C=1C=C(OC2=C(C=CC=C2)N2CCNCC2)C=CC1)C | C18H23N3O
